US05179125
Preparation of 4-[(2-acetylthiomethyl-3-phenylpropionyl)aminomethyl]benzoic acid
4-Aminomethylbenzoic acid (1.50 g) and sodium hydrogen carbonate (1.68 g) are suspended in water (20 ml), and thereto is added dropwise a solution of 2-acetylthiomethyl-3-phenylpropionyl chloride (2.86 g) in tetrahydrofuran (6 ml) with vigorously stirring. After the reaction is completed, the reaction mixture is acidified with hydrochloric acid and is extracted with ethyl acetate. The extract is dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue is recrystallized from ethanol to give the title compound (1.2 g).

reactant | 4-Aminomethylbenzoic acid | 1.50 g | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | sodium hydrogen carbonate | 1.68 g | C(O)([O-])=O.[Na+]
reactant | 2-acetylthiomethyl-3-phenylpropionyl chloride | 2.86 g | C(C)(=O)SCC(C(=O)Cl)CC1=CC=CC=C1 | C12H13ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-[(2-acetylthiomethyl-3-phenylpropionyl)aminomethyl]benzoic acid | 1.2 g | C(C)(=O)SCC(C(=O)NCC1=CC=C(C(=O)O)C=C1)CC1=CC=CC=C1 | C20H21NO4S
